US07067506B2
Step 3: 2-(1-Ethyl-1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-5-methyl-phenylamine.
A solution of [2-(1-Ethyl-1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-5-methyl-phenyl]-carbamic acid tert-butyl ester (40 mg, 0.1 mmol) was stirred in 4N HCl in dioxane (2 mL) at room temperature under a drying tube overnight. The suspension was concentrated by rotovap, diluted to 30 mL with CH2Cl2 and shaken with 10% Na2CO3 (30 mL). The organics were isolated, dried (MgSO4), filtered and concentrated to a brown oil, which was used without purification in the following reaction.

reactant | [2-(1-Ethyl-1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-5-methyl-phenyl]-carbamic acid tert-butyl ester | 0.1 mmol, 40 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)OCC1CN(C2=CC=CC=C2C1)CC)=O | C24H32N2O3
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-(1-Ethyl-1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-5-methyl-phenylamine | C(C)N1CC(CC2=CC=CC=C12)COC1=C(C=C(C=C1)C)N | C19H24N2O
